US06503907B2
In analogy to example 17.3, Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester and 2-(Ethyl-prop-2-ynyl-amino)-ethanol were converted to yield 2-(Ethyl-{3-[1-(4-fluoro-phenyl)-1H-indol-5-yl]-prop-2-ynyl}-amino)-ethanol as brown viscous oil, MS: 337 (MH+).

reactant | Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C15H9F4NO3S
reactant | 2-(Ethyl-prop-2-ynyl-amino)-ethanol | C(C)N(CCO)CC#C | C7H13NO
product | 2-(Ethyl-{3-[1-(4-fluoro-phenyl)-1H-indol-5-yl]-prop-2-ynyl}-amino)-ethanol | C(C)N(CCO)CC#CC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C21H21FN2O
